US09102664B2
4-(4-(4-(4-(((3R,5R)-5-((1H-1,2,4-triazol-1-yl)methyl)-5-(2,4-difluoro phenyl)tetrahydrofuran-3-yl)methoxy)phenyl)piperazin-1-yl)phenyl)-1-((2S,3S)-2-(benzyloxy)pentan-3-yl)-1H-1,2,4-triazol-5(4H)-one (Formula-21)
Added 1-((2S,3S)-2-(benzyloxy)pentan-3-yl)-4-(4-(4-(4-hydroxyphenyl) piperazin-1-yl)phenyl)-1H-1,2,4-triazol-5(4H)-one compound of formula-20 (35 g) to a mixture of dimethylsulfoxide (350 ml) and sodium hydroxide (3.4 g) and water (7 ml) at 25-30° C. and stirred for 45 minutes at 25-30° C. ((3S,5R)-5-((1H-1,2,4-triazol-1-yl)methyl)-5-(2,4-difluorophenyl)tetrahydrofuran-3-yl)methyl-4-methylbenzenesulfonate compound of formula-10 (31.5 g) was added to the above reaction mixture at 25-30° C. and stirred 5 hours at 25-30° C. After completion of the reaction, water was added to the reaction mixture. The reaction mixture was extracted twice with ethyl acetate. The organic layers were washed with 10% sodium chloride solution. Distilled off the solvent under reduced pressure to get the compound as residue. Dissolved the obtained residue in isopropanol (320 ml) at 45-50° C. Filtered the solid, washed with water and dried to get the title compound. Yield: 98%; Purity by HPLC: 95.1%

reactant | 1-((2S,3S)-2-(benzyloxy)pentan-3-yl)-4-(4-(4-(4-hydroxyphenyl) piperazin-1-yl)phenyl)-1H-1,2,4-triazol-5(4H)-one | C(C1=CC=CC=C1)O[C@@H](C)[C@H](CC)N1N=CN(C1=O)C1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)O | C30H35N5O3
reactant | dimethylsulfoxide | 350 ml | CS(=O)C | C2H6OS
reactant | sodium hydroxide | 3.4 g | [OH-].[Na+]
reactant | ((3S,5R)-5-((1H-1,2,4-triazol-1-yl)methyl)-5-(2,4-difluorophenyl)tetrahydrofuran-3-yl)methyl-4-methylbenzenesulfonate | N1(N=CN=C1)C[C@@]1(C[C@@H](CO1)COS(=O)(=O)C1=CC=C(C=C1)C)C1=C(C=C(C=C1)F)F | C21H21F2N3O4S
solvent | isopropanol | 320 ml | C(C)(C)O | C3H8O
solvent | water | O | H2O
solvent | water | 7 ml | O | H2O
product | 4-(4-(4-(4-(((3R,5R)-5-((1H-1,2,4-triazol-1-yl)methyl)-5-(2,4-difluoro phenyl)tetrahydrofuran-3-yl)methoxy)phenyl)piperazin-1-yl)phenyl)-1-((2S,3S)-2-(benzyloxy)pentan-3-yl)-1H-1,2,4-triazol-5(4H)-one | Yield: 98% | N1(N=CN=C1)C[C@@]1(C[C@@H](CO1)COC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)N1C=NN(C1=O)[C@H]([C@H](C)OCC1=CC=CC=C1)CC)C1=C(C=C(C=C1)F)F | C44H48F2N8O4
